US04244953
6-(4-Nitrophenyl)-1,2,4-triazolo[4,3-a]pyridine
2-Hydrazino-5-(4-nitrophenyl)pyridine is treated with ethyl orthoformate to give the product of the Example.

reactant | 2-Hydrazino-5-(4-nitrophenyl)pyridine | N(N)C1=NC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
product | 6-(4-Nitrophenyl)-1,2,4-triazolo[4,3-a]pyridine | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=CC=2N(C1)C=NN2 | C12H8N4O2
